US05498609
To a solution of 7-chloro-1-{6-[2-(2-aminoethoxy)benzoylamino]-nicotinoyl}-2,3,4,5-tetrahydro-1H-benzazepine (0.11 g) in methanol (3 ml) is added 37% formalin (0.24 ml), and thereto is added sodium cyanoborohydride (0.044 g), and thereto is added with stirring acetic acid (0.18 ml) at 10° C. The mixture is stirred at room temperature for one hour, and poured into ice-water, and the mixture is made basic with potassium carbonate, and extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography, and the resultant is dissolved in ethanol (5 ml), and thereto is added conc. hydrochloric acid, and the mixture is stirred at room temperature for one hour. The mixture is evaporated under reduced pressure to remove the solvent, and crystallized from diethyl ether to give 7-chloro-1-{6-[2-(2-dimethylaminoethoxy)benzoyl-amino]nicotinoyl}-2,3,4,5-tetrahydro-1H-benzazepine dihydrochloride (53 mg) as white powder.

reactant | 7-chloro-1-{6-[2-(2-aminoethoxy)benzoylamino]-nicotinoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 0.11 g | ClC=1C=CC2=C(CCCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)OCCN)=O)=O)C1 | C25H25ClN4O3
reactant | formalin | 0.24 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.044 g | C(#N)[BH3-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 ml | CO | CH4O
solvent | acetic acid | 0.18 ml | C(C)(=O)O | C2H4O2
product | 7-chloro-1-{6-[2-(2-dimethylaminoethoxy)benzoyl-amino]nicotinoyl}-2,3,4,5-tetrahydro-1H-benzazepine dihydrochloride | 53 mg | Cl.Cl.ClC=1C=CC2=C(CCCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)OCCN(C)C)=O)=O)C1 | InChI=1S/C27H29ClN4O3.2ClH/c1-31(2)15-16-35-24-9-4-3-8-22(24)26(33)30-25-13-10-20(18-29-25)27(34)32-14-6-5-7-19-17-21(28)11-12-23(19)32;;/h3-4,8-13,17-18H,5-7,14-16H2,1-2H3,(H,29,30,33);2*1H
